US04107308
4-(Allylthio)-imidazo[1,5-d]-as-triazine
A 15.2 gm. portion of imidazo[1,5-d]-as-triazine-4(3H)-thione in 75 ml. of methanol is treated with 2.3 gm. of sodium in 75 ml. of methanol. After 5 minutes, a 12.0 gm. portion of allyl bromide is added and the reaction is continued as described in Example 29 giving the desired product, m.p. 68°-69.5° C.

reactant | imidazo[1,5-d]-as-triazine-4(3H)-thione | C=1C=2N(C(NN1)=S)C=NC2 | C5H4N4S
reactant | sodium | [Na] | Na
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | methanol | CO | CH4O
product | 4-(Allylthio)-imidazo[1,5-d]-as-triazine | C(C=C)SC1=NN=CC=2N1C=NC2 | C8H8N4S
